US04963590
5-(3,4-Dimethoxy-6-chlorophenyl)-2,4-pentadienoic acid
To a solution containing 10.0 g 3,4 dimethoxy-6-chlorobenzaldehyde and 8 ml of ethyl crotonate in 60 ml of N-methylpyrrolidone 6.0 g of potassium tert.-butoxide was added while stirring . The solution was stirred for 0.5 h more at 20° C. and poured then to a mixture of ice and hydrochloric acid. The solution was extracted with ether. The ether solution was washed with water and extracted with 2.5 N NaOH-solution. The aqueous phase was acidified with hydrochloric acid and the semisolid product was separated. Yield 10.8 g (81%).

reactant | 3,4 dimethoxy-6-chlorobenzaldehyde | 10.0 g | COC=1C=C(C=O)C(=CC1OC)Cl | C9H9ClO3
reactant | ethyl crotonate | 8 ml | C(\C=C\C)(=O)OCC | C6H10O2
reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidone | 60 ml, 6.0 g | CN1C(CCC1)=O | C5H9NO
product | 5-(3,4-Dimethoxy-6-chlorophenyl)-2,4-pentadienoic acid | COC=1C=C(C(=CC1OC)Cl)C=CC=CC(=O)O | C13H13ClO4
